US07601843B2
N-[1-[2-[1-(4-Methoxy-3-methoxymethylbutyl)cyclohexyl]ethyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide
After adding sodium hydride (60% dispersion in mineral oil) (179 mg, 4.47 mmol) to a solution of N-[1-[2-[1-(4-hydroxy-3-hydroxymethylbutyl)cyclohexyl]ethyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide (1.00 g, 2.01 mmol) in N,N-dimethylformamide (3 mL) while cooling on ice, the mixture was stirred for 40 minutes. Next, methyl iodide (0.15 mL, 2.41 mmol) was added, stirring was continued for 1 hour, and saturated aqueous sodium hydrogencarbonate (10 mL) was added. Extraction was performed with ethyl acetate, and the extract was washed with saturated aqueous sodium chloride (10 mL) and then dried over anhydrous magnesium sulfate. The residue obtained after filtering and concentration under reduced pressure was purified by silica gel column chromatography (150 g NH silica Chromatorex DM2035, hexane:ethyl acetate=1:1-chloroform:methanol=8:2) to obtain the title compound (100 mg) and a furancarboxylic acid ester of N-[1-[2-[1-(4-methoxy-3-hydroxymethylbutyl)cyclohexyl]ethyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide (91 mg).

reactant | sodium hydride | 4.47 mmol, 179 mg | [H-].[Na+]
reactant | N-[1-[2-[1-(4-hydroxy-3-hydroxymethylbutyl)cyclohexyl]ethyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide | 2.01 mmol, 1.00 g | OCC(CCC1(CCCCC1)CCN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=NC=C(C=C1)C)CO | C29H43N3O4
reactant | methyl iodide | 2.41 mmol, 0.15 mL | CI | CH3I
reactant | sodium hydrogencarbonate | 10 mL | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | N-[1-[2-[1-(4-Methoxy-3-methoxymethylbutyl)cyclohexyl]ethyl]piperidin-4-yl]-N-(5-methylpyridin-2-yl)-2-furancarboxamide | 100 mg | COCC(CCC1(CCCCC1)CCN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=NC=C(C=C1)C)COC | C31H47N3O4
